US07947683B2
(1S,5R)-3-{4-[4-methyl-5-(methylthio)-4H-1,2,4-triazol-3-yl]butyl}-1-[4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hexane hydrochloride
To a stirred solution of (1S,5R)-1-[4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hexane (40 mg) and 4-[4-methyl-5-(methylthio)-4H-1,2,4-triazol-3-yl]butanal (40 mg) in 1,2-dichloroethane (4 ml) sodium borohydride (76 mg) and acetic acid (20 μl) were added and the reaction mixture was stirred overnight at room temperature. Then an additional amount of 4-[4-methyl-5-(methylthio)-4H-1, 2,4-triazol-3-yl]butanal (48 mg), sodium borohydride (76 mg) and acetic acid (20 μl) were added and the stirring continued for 2 days then DCM and water were added to the reaction mixture. The solvent was removed under reduced pressure affording a crude product that was purified by chromatography to give the free base of the title compound. To a solution of this compound in DCM (1 mL) HCL 1N in diethylehter was added (0.12 mL) and the solvent removed under reduced pressure to give the title compound (67 mg) as a slightly hygroscopic solid.

reactant | (1S,5R)-1-[4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hexane | 40 mg | FC(C1=CC=C(C=C1)[C@]12CNC[C@@H]2C1)(F)F | C12H12F3N
reactant | 4-[4-methyl-5-(methylthio)-4H-1,2,4-triazol-3-yl]butanal | 40 mg | CN1C(=NN=C1SC)CCCC=O | C8H13N3OS
reactant | 4-[4-methyl-5-(methylthio)-4H-1, 2,4-triazol-3-yl]butanal | 48 mg | CN1C(=NN=C1SC)CCCC=O | C8H13N3OS
reactant | sodium borohydride | 76 mg | [BH4-].[Na+]
reactant | DCM | C(Cl)Cl | CH2Cl2
solvent | 1,2-dichloroethane | 4 ml, 76 mg | ClCCCl | C2H4Cl2
solvent | acetic acid | 20 μl | C(C)(=O)O | C2H4O2
solvent | acetic acid | 20 μl | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | (1S,5R)-3-{4-[4-methyl-5-(methylthio)-4H-1,2,4-triazol-3-yl]butyl}-1-[4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hexane hydrochloride | Cl.CN1C(=NN=C1SC)CCCCN1C[C@]2(C[C@H]2C1)C1=CC=C(C=C1)C(F)(F)F | InChI=1S/C20H25F3N4S.ClH/c1-26-17(24-25-18(26)28-2)5-3-4-10-27-12-16-11-19(16,13-27)14-6-8-15(9-7-14)20(21,22)23;/h6-9,16H,3-5,10-13H2,1-2H3;1H/t16-,19+;/m0./s1
